US07105517B2
d) N-{4-[2-(2,2-Dimethylethoxycarbonyl-amino)-4-phenyl-thiazol-5-yl]-pyrimidin-2-yl}-N-phenyl-amine
The 4-[2-(2,2-dimethylethoxycarbonyl-amino)-4-phenyl-thiazol-5-yl]-2-iodo-pyrimidine (0.082 g, 0.17 mmol) is heated to reflux with aniline (0.032 g, 0.34 mmol) and dry p-toluene sulfonic acid (0.026 g, 0.136 mmol) in dry dioxane for five hours.

reactant | 4-[2-(2,2-dimethylethoxycarbonyl-amino)-4-phenyl-thiazol-5-yl]-2-iodo-pyrimidine | 0.17 mmol, 0.082 g | CC(COC(=O)NC=1SC(=C(N1)C1=CC=CC=C1)C1=NC(=NC=C1)I)C | C18H17IN4O2S
reactant | aniline | 0.34 mmol, 0.032 g | NC1=CC=CC=C1 | C6H7N
reactant | p-toluene sulfonic acid | 0.136 mmol, 0.026 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-{4-[2-(2,2-Dimethylethoxycarbonyl-amino)-4-phenyl-thiazol-5-yl]-pyrimidin-2-yl}-N-phenyl-amine | CC(COC(=O)NC=1SC(=C(N1)C1=CC=CC=C1)C1=NC(=NC=C1)NC1=CC=CC=C1)C | C24H23N5O2S
